US05889078
In order to obtain the polymeric drug of the present invention, it is firstly required to obtain a monomer of acrylic acid or methacrylic acid derivatives by reacting a low molecular physiological active substance with acrylic acid or methacrylic acid. The above-mentioned monomer may be obtained in the manner as stated below, in case of using acetaminophen, for example. That is, acetaminophen is dissolved in an acetonitrile anhydride, and methacryloyl chloride is added drop by drop to the solution. The resulting reaction solution is stirred for 30 minutes at a room temperature, followed by the removal of a reaction solvent by distillation. The residue is dissolved in chloroform, and dried, followed by recrystallization from benzene to obtain p-methacryloyloxyacetanilide.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | acetaminophen | CC(=O)NC=1C=CC(=CC1)O | C8H9NO2
solvent | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
product | p-methacryloyloxyacetanilide | C(C(=C)C)(=O)OC1=CC=C(NC(C)=O)C=C1 | C12H13NO3
